US08198311B2
(1-(4-Fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol (16.0 g, 50 mmol) was dissolved in 400 mL of dry THF and TiCl4 (60 mL of 1.0 M DCM solution, 60 mmol) was added portionwise and then stirred 30 min. The flask was put on a rotary evaporator until the THF began to distill to degas the HCl and then the reaction was treated with 1-methoxy-2-methyl-1-(trimethylsiloxy)propene (17.4 g, 100 mmol). The reaction was quenched with aqueous sodium bicarbonate and extracted 2× EtOAc, the organic layers dried over MgSO4, filtered, concentrated, and then chromatographed using DCM to give 16.2 g (81% yield) of methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoate. MS found: (M+H)+=403.

reactant | (1-(4-Fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol | 50 mmol, 16.0 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(O)C1=CC=CC=C1 | C20H15FN2O
reactant | 1-methoxy-2-methyl-1-(trimethylsiloxy)propene | 100 mmol, 17.4 g | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
solvent | THF | 400 mL | C1CCOC1 | C4H8O
catalyst | TiCl4 | 60 mmol, 1.0 M, 60 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoate | 16.2 g, 81% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)C1=CC=CC=C1 | C25H23FN2O2
